US07776864B2
Step 3: 5-chloro-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine
A mixture of 0.5 g 5,7-dichloro-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine, 0.22 ml glacial acetic acid, 0.5 ml methanol, 3 ml THF and 366 mg of Zn/Cu pair are stirred for 3 h at ambient temperature. The mixture is filtered through celite, evaporated to dryness and the residue is purified on silica gel (dichloromethane/ethyl acetate) to yield the desired product.

reactant | 5,7-dichloro-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine | 0.5 g | ClC1=NC=2N(C(=C1C1=CC=CC=C1)Cl)N=CN2 | C11H6Cl2N4
reactant | acetic acid | 0.22 ml | C(C)(=O)O | C2H4O2
reactant | methanol | 0.5 ml | CO | CH4O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 5-chloro-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine | ClC1=NC=2N(C=C1C1=CC=CC=C1)N=CN2 | C11H7ClN4
